US08404684B2
3-{3-[5-(2,6-Dimethyl-pyridin-4-yl)-4-methyl-thiazol-2-yl]-ureido}-N,N-dimethyl-propionamide
To a stirred solution of imidazole-1-carboxylic acid [5-(2,6-dimethyl-pyridin-4-yl)-4-methyl-thiazol-2-yl]-amide (Intermediate BA) (0.05 g, 0.16 mmol) in DMF (1.5 ml) under an inert atmosphere is added 3-amino-N,N-dimethyl-propionamide (Amine) (0.018 g, 0.16 mmol). The reaction mixture is stirred at room temperature for 18 hours. The solvent is removed in vacuo and the resulting crude residue is dissolved in THF and passed through a plug of polymer supported isocyanate resin (0.5 g, pre-washed with THF). The solution is concentrated in vacuo and the crude residue is trituated with ether-ethyl acetate to afford the titled compound as a yellow solid.

reactant | imidazole-1-carboxylic acid [5-(2,6-dimethyl-pyridin-4-yl)-4-methyl-thiazol-2-yl]-amide | 0.16 mmol, 0.05 g | CC1=NC(=CC(=C1)C1=C(N=C(S1)NC(=O)N1C=NC=C1)C)C | C15H15N5OS
reactant | 3-amino-N,N-dimethyl-propionamide | 0.16 mmol, 0.018 g | NCCC(=O)N(C)C | C5H12N2O
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 3-{3-[5-(2,6-Dimethyl-pyridin-4-yl)-4-methyl-thiazol-2-yl]-ureido}-N,N-dimethyl-propionamide | CC1=NC(=CC(=C1)C1=C(N=C(S1)NC(NCCC(=O)N(C)C)=O)C)C | C17H23N5O2S
